US09034866B2
Synthesis of 10-bromo-3-(difluoromethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide
10-bromo-3-(difluoromethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was prepared similarly to as described in General Procedure L Methyl 10-bromo-3-(difluoromethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was reacted with sodium methoxide and formamide to afford 70.2 mg (100% yield) of the crude title compound which was carried forward without further purification.

reactant | Methyl 10-bromo-3-(difluoromethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)C(F)F)C1 | C16H13BrF2N2O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | formamide | C(=O)N | CH3NO
product | 10-bromo-3-(difluoromethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | 70.2 mg, 100% yield | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C(F)F)C1 | C15H12BrF2N3O
